US08980888B2
<Step 2> Synthesis of methyl 3-fluoro-2-phenylimidazo[1,2-a]pyridine-7-carboxylate
Trimethyl phosphite (1.9 ml) was added to an N-methylpyrrolidone (10 ml) solution of the (Z)-methyl 2-((2,2,2-trifluoro-1-phenylethylidene)amino)isonicotinate (2.5 g) obtained in (Example 2.19) <Step 1>, and the obtained mixture was then stirred in microwave at 150° C. for 60 minutes. Thereafter, water was added to the reaction solution, and the mixed solution was then extracted with ethyl acetate. Organic layers were gathered, and the gathered organic layer was then dried over sodium sulfate. The solvent was distilled away under reduced pressure, and the obtained residue was then purified by silica gel column chromatography (silica gel:eluent; heptane:ethyl acetate=90:10-50:50), so as to obtain the title compound (1.9 g) in the form of a brown solid.

reactant | Trimethyl phosphite | 1.9 ml | P(OC)(OC)OC | C3H9O3P
reactant | N-methylpyrrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
reactant | (Z)-methyl 2-((2,2,2-trifluoro-1-phenylethylidene)amino)isonicotinate | 2.5 g | FC(\C(\C1=CC=CC=C1)=N/C=1C=C(C(=O)OC)C=CN1)(F)F | C15H11F3N2O2
solvent | water | O | H2O
product | methyl 3-fluoro-2-phenylimidazo[1,2-a]pyridine-7-carboxylate | 1.9 g | FC1=C(N=C2N1C=CC(=C2)C(=O)OC)C2=CC=CC=C2 | C15H11FN2O2
